US07241785B2
To a mixture of 3-benzyloxy-1-phenyl-1H-pyrazole-5-carbaldehyde (6.24 g), diethylphosphonoethyl acetate (5.55 g) and N,N-dimethylformamide (50 ml) was added sodium hydride (60% in oil, 960 mg) at 0° C. and the mixture was stirred overnight at room temperature. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with dilute hydrochloric acid and then saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl (E)-3-(3-benzyloxy-1-phenyl-1H-pyrazol-5-yl)propenoate (7.33 g, yield 94%) was obtained as a pale-yellow oil from a fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | 3-benzyloxy-1-phenyl-1H-pyrazole-5-carbaldehyde | 6.24 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C=O)C1=CC=CC=C1 | C17H14N2O2
reactant | diethylphosphonoethyl acetate | 5.55 g | C(C)(=O)OCCP(=O)(OCC)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 960 mg | [H-].[Na+]
solvent | water | O | H2O
product | ethyl (E)-3-(3-benzyloxy-1-phenyl-1H-pyrazol-5-yl)propenoate | 7.33 g, yield 94% | C(C1=CC=CC=C1)OC1=NN(C(=C1)/C=C/C(=O)OCC)C1=CC=CC=C1 | C21H20N2O3
